US06462234B2
N-t-butoxycarbonyl-L-tyrosine (II)
L-Tyrosine (I, 9.06 g, 50 mmol) is suspended in dioxane/water (1/1, 180 ml). Triethylamine (10.45 ml, 75 mmol) is added. The reaction mixture is cooled to −10° and di-tert-butyl dicarbonate (12.0 g, 55 mmol) is added. After 1hr at −10°, the reaction is warmed to 20-25° e. The suspension is stirred at 20-25° for 18 hr. The resulting mixture is concentrated and then partitioned in ethyl acetate (90 ml) and water (45 ml). The aqueous phase is collected and adjusted to pH 1 using hydrochloric acid (1 M). The aqueous mixture is extracted with ethyl acetate (180 ml). The extract is dried over magnesium sulfate, filtered and concentrated to give the title compound, NMR (DMSO-d6) δ9.15, 7.01, 6.95, 6.64, 3.98, 2.86, 2.68 and 1.32; CMR (DMSO-d6) δ174.1, 156.2, 155.8, 130.3, 128.3, 115.3, 78.4, 55.8, 36.0 and 28.5; MS (CI, NH3) m/z (relative intensity) 299, 282, 243, 226, 182 and 124.

reactant | L-Tyrosine | 50 mmol, 9.06 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
reactant | Triethylamine | 75 mmol, 10.45 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 55 mmol, 12.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 180 ml | O1CCOCC1.O
product | N-t-butoxycarbonyl-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
